US20010053779A1
tert-Butyl 2-(2-methoxyphenoxy)ethylcarbamate (23.8 g, 89 mmol) was cooled to 0° C. and stirred as a mixture of trifluoroacetic acid:dichloromethane (1: 1, 40 mL) was added dropwise. The mixture was allow to warm to 23° C., stirred for 2 hours and concentrated in vacuo. The residue was taken back up in dichloromethane (100 mL) and the solution was washed with saturated aqueous sodium hydrogen carbonate (3×20 mL) and aqueous sodium hydroxide (10%, 3×20 mL), dried (Na2SO4), filtered and concentrated in vacuo to provide 2-(2-methoxyphenoxy)ethylamine (13 g, 88% yield) a light yellow solid; MS (PB-PCI) C9H13NO2 m/e calc 167.21; found 168 (MH+).

reactant | tert-Butyl 2-(2-methoxyphenoxy)ethylcarbamate | 89 mmol, 23.8 g | COC1=C(OCCNC(OC(C)(C)C)=O)C=CC=C1 | C14H21NO4
solvent | trifluoroacetic acid dichloromethane | 40 mL | FC(C(=O)O)(F)F.ClCCl
product | 2-(2-methoxyphenoxy)ethylamine | 13 g, 88% yield | COC1=C(OCCN)C=CC=C1 | C9H13NO2
